US04441913
12.1 g of hydroquinone were dissolved in 60 ml of dry dimethylformamide, 31.7 g of potassium carbonate were added thereto in a slow stream of nitrogen, and then the mixture was heated to 90° to 95° C. for one hour with stirring. The mixture was cooled to 60° C., and to it were added dropwise 28.7 g of 2-benzyloxyethyl-2-bromopropionate. The reaction mixture was heated at 90° C. for two hours. After cooling the reaction solution to room temperature, it was poured into ice-water and adjusted to pH7, then extracted with 100 ml of toluene. The toluene layer was dried and filtered, and then toluene was removed under reduced pressure. The colorless oily product of 2-benzyloxyethyl-2-(4-hydroxyphenoxy)propionate was obtained in a yield of 24.6 g. (nD21.5 1.5390)

reactant | hydroquinone | 12.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 31.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-benzyloxyethyl-2-bromopropionate | 28.7 g | C(C1=CC=CC=C1)OCCOC(C(C)Br)=O | C12H15BrO3
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-benzyloxyethyl-2-(4-hydroxyphenoxy)propionate | C(C1=CC=CC=C1)OCCOC(C(C)OC1=CC=C(C=C1)O)=O | C18H20O5
